US05391541
By the method of Example 1, Step E, 18.27 grams (0.073 mole) of 2,3-dichloro-5-nitrophenylacetic acid and 80 mL of thionyl chloride were reacted in 400 mL of carbon tetrachloride, yielding 20.90 grams of 2,3-dichloro-5-nitrophenylacetyl chloride. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3-dichloro-5-nitrophenylacetic acid | 0.073 mole, 18.27 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CC(=O)O | C8H5Cl2NO4
reactant | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3-dichloro-5-nitrophenylacetyl chloride | 20.90 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CC(=O)Cl | C8H4Cl3NO3
